US08012976B2
tert-Butyl 4-(4-bromophenyl)-4-oxobutylcarbamate
A thoroughly dried three-necked round-bottom flask was equipped with reflux condenser, addition funnel and argon inlet. Then magnesium powder (7.5 g, 311 mmol, activated by iodine) and dry THF (300 mL) were placed into this apparatus. A solution of 1,4-dibromobenzene (73.5 g, 311 mmol) in dry THF (200 mL) was slowly added at such a rate that the mixture maintained at reflux. When the addition was completed the mixture was refluxed for additional 2 hrs. After cooling to room temperature, the solution was added into a solution of tert-butyl 2-oxopyrrolidine-1-carboxylate (48 g, 260 mmol) in THF (320 mL) at −78° C. and the mixture was stirred at −78° C. for 2 hrs. The solution was warmed to ambient temperature and stirred for another 10 hrs before quenching with water. Hydrochloric acid (1 N, 100 mL) was added and the mixture was stirred at ambient temperature for 10 minutes. The mixture was concentrated and the residue was partitioned between ethyl acetate and brine. The organic phase was dried over magnesium sulfate and concentrated in vacuo to afforded the crude product, which was purified by column chromatography (EtOAc:DCM:hexane=1:1:15) to give the title compound as a white solid (53 g, yield 60%). LC-MS (ESI) m/z: 342 (M+1)+.

reactant | magnesium | 311 mmol, 7.5 g | [Mg] | Mg
reactant | 1,4-dibromobenzene | 311 mmol, 73.5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | tert-butyl 2-oxopyrrolidine-1-carboxylate | 260 mmol, 48 g | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 320 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(4-bromophenyl)-4-oxobutylcarbamate | 53 g, yield 60% | BrC1=CC=C(C=C1)C(CCCNC(OC(C)(C)C)=O)=O | C15H20BrNO3
